US06093807
A solution of 2-amino-4-chloro-pyrrolo[2,3-d]pyrimidine (20 g, 118 mmol) and pivaloyl chloride (14.3 g, 118 mmol) in pyridine (150 mL) was stirred for 18 hours at ambient temperature. The resulting dark red solution was evaporated to an amber solid which was co-evaporated with water (20 mL, 3×). The resulting solid was filtered, washed with cold water and then dried over KOH in vacuo to yield 22 g (83%) of 2-pivaloylamino-4-chloro-pyrrolo[2,3-d]pyrimidine as a reddish solid. 1H-NMR (DMSO-d6): δ 12.35 (bs, 1, N (7)-H); 10.07 (s,1, N (2)-H); 7.56 (m,1, H-6); 6.58 (m,1, H-5); 1.24 (s, 9, pivaloyl methyls). mp>210° C.

reactant | 2-amino-4-chloro-pyrrolo[2,3-d]pyrimidine | 118 mmol, 20 g | NC1=NC(=C2C(N1)=NC=C2)Cl | C6H5ClN4
reactant | pivaloyl chloride | 118 mmol, 14.3 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
product | 2-pivaloylamino-4-chloro-pyrrolo[2,3-d]pyrimidine | 22 g, 83% | C(C(C)(C)C)(=O)NC1=NC(=C2C(N1)=NC=C2)Cl | C11H13ClN4O
